US04705737
To 600 ml of chlorobenzene were added 272 g of anhydrous aluminum chloride and 229 g of methanesulfonyl chloride and the mixture was heated on a steam bath for 6 hours with stirring. The solution thus formed was poured into ice-water, and then the produce was extracted with 400 ml of methylene chloride. Methylene chloride was distilled off from the extract under reduced pressure. To the residue thus formed was added 300 ml of methanol, the mixture was cooled to 15° C., and crystals thus deposited were collected by filtration to provide 212 g 1-chloro-4-methylsulfonyl benzene having a melting point of 92° to 94° C.

reactant | chlorobenzene | 600 ml | ClC1=CC=CC=C1 | C6H5Cl
reactant | aluminum chloride | 272 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | methanesulfonyl chloride | 229 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | methanol | 300 ml | CO | CH4O
product | 1-chloro-4-methylsulfonyl benzene | 212 g | ClC1=CC=C(C=C1)S(=O)(=O)C | C7H7ClO2S
